US05334576
Preparation of methyl-5-isopropenyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate
To a solution of 4.9 g of 5-isopropenyl-2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)nicotinic acid in 50 mL of methylene chloride, stirred at 0°, is added 60 mL of 0.25M ethereal diazomethane. After stirring for 15 minutes, the reaction is concentrated on a steam bath. The residue is chromatographed on silica gel using 2:1 ether-hexanes as eluant to afford the desired product. Recrystallization from ether-hexanes affords a solid, mp 90.5°-92.5°.

reactant | 5-isopropenyl-2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)nicotinic acid | 4.9 g | C(=C)(C)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)=O)(C)C(C)C | C16H19N3O3
reactant | diazomethane | 0.25M, 60 mL | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl-5-isopropenyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | COC(C1=C(N=CC(=C1)C(=C)C)C=1NC(C(N1)(C)C(C)C)=O)=O | C17H21N3O3
